US05310895
After 1 g (2.7 mmols) of 5'-O-acetyl-3'-deoxy-3'-bromoadenosine was added to 10 ml of pyridine, 418 mg (1.1 eq.) of benzoyl chloride was added to the mixture. The mixture was stirred at room temperature for 2 hours and pyridine was distilled off under reduced pressure. The residue was added to 30 ml of water followed by extraction twice with 30 ml of chloroform. After the organic solvent was washed with water and then dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography to give 1.18 g (yield, 92%) of 2'-O-benzoyl-5'-O-acetyl-3'-deoxy-3'-bromoadenosine.

reactant | 5'-O-acetyl-3'-deoxy-3'-bromoadenosine | 2.7 mmols, 1 g | C(C)(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)Br | C12H14BrN5O4
reactant | benzoyl chloride | 418 mg, 1.1 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2'-O-benzoyl-5'-O-acetyl-3'-deoxy-3'-bromoadenosine | 1.18 g, 92% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1Br)COC(C)=O)N1C=NC=2C(N)=NC=NC12 | C19H18BrN5O5
